Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Pericardial effusion on Echo
 
Major Surgical or Invasive Procedure:
Pericardiocentesis with serosanguinous fluid
 
History of Present Illness:
Mrs. ___ is a ___ yo woman with a h/o DCD renal transplant ___ 
IgA nephropathy in ___, dyslipidemia and bipolar disorder who 
presents from clinic due to a large pericardial effusion noticed 
on routine echo. Echo was first ordered one month prior to 
evaluate palpitations which have since resolved.  
 
The patient reports dyspnea on exertion over the past month that 
has actually improved with exercise. She denies chest pain, 
weight loss, fevers, night sweats. She is at her baseline level 
of energy/fatigue. Her leg edema has improved over the past 
month.  
 
Per the patient's daughter, the patient has a history of a 
positive PPD with 9 months of INH therapy pre-transplant with a 
Dr. ___ in ___, ___. The patient has also recently travelled to 
___, although she denies any outside time. She 
reports no joint pain or rashes. She has also been present in a 
___ home that is being renovated.  

ROS: Otherwise negative for lightheadedness, changes in urine or 
stool, sick contacts or other exposures.  

 
Past Medical History:
ESRD ___ IgA nephropathy s/p DCD renal transplant ___ 
(Baseline Cr 1.4)
Dyslipidemia
Bipolar disorder
PTSD
Hypertension
s/p fibroid surgery -___
history of AV fistulas ___
s/p Cesarean section
 
Social History:
___
Family History:
Patient's daughter explains that the patient lost nearly her 
whole family in a war in ___ as a child and has no details 
regarding family history of illnesses/cancers. 
 
Physical Exam:
VS: T 97.3F BP 134/63mmHg HR 60 bpm RR 18 98%@RA  
Gen: Obese female in no acute distress  
HEENT: CN II-XII. No thyromegaly. No JVD  
CV: S1 + S2 obscured by a murmur vs. rub throughout the cardiac 
cycle.  
Pulm: B CTA  
Abd: Soft, NTND. No HSM or tenderness. No hepatojugular reflux 
appreciated.  
Ext: 1+ edema in ___, 2+ DP. ___  

 
Pertinent Results:
___ ADMISSION EKG: rate 60, NSR, normal axis, with biphasic 
T-waves in V2, no other ST changes

___ CXR PA and Lateral: marked enlargement of the cardiac 
silhouette in the absence of significant congestion or pneumonic 
infiltrate. The finding is compatible with chronic pericardial 
effusion.

___ 2D-ECHOCARDIOGRAM / Pre-cath prior to drainage 
demonstrated the following: The left atrium is normal in size. 
No atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF 60%). There is no ventricular 
septal defect. Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is a moderate to large sized pericardial 
effusion. The effusion appears circumferential. There are no 
echocardiographic signs of tamponade. No right atrial or right 
ventricular diastolic collapse is seen.

___ 2D-ECHOCARDIOGRAM in cath lab after drainage of 400cc 
fluid: left ventricular cavity is unusually small. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
a moderate to large sized pericardial effusion. The effusion 
appears circumferential. The effusion is echo dense, consistent 
with blood, inflammation or other cellular elements.Compared 
with the findings of the prior study (images reviewed) of ___, the size of the pericardial effusion is similar. 
No echocardiographic evidence of cardiac tamponade is present.

___ STRESS MIBI: Normal myocardial perfusion study at the 
level of stress achieved, ejection fraction is 69% 

Discharge Labs: 
___ 05:25AM BLOOD WBC-4.7 RBC-3.99* Hgb-10.3* Hct-31.5* 
MCV-79* MCH-25.7* MCHC-32.6 RDW-12.9 Plt ___
___ 05:25AM BLOOD Glucose-108* UreaN-23* Creat-1.6* Na-140 
K-4.0 Cl-108 HCO3-24 AnGap-12
___ 05:45PM BLOOD C3-143 C4-37
___ 05:45PM BLOOD TSH-5.0*
___ 05:26AM BLOOD Anti-Tg-PND
___ 11:47AM BLOOD dsDNA-PND
___ 06:12AM BLOOD Triglyc-60 HDL-64 CHOL/HD-2.3 LDLcalc-72
___ 01:15PM OTHER BODY FLUID ___ ___ 
Polys-56* Bands-4* Lymphs-38* Monos-2*
___ 01:15PM OTHER BODY FLUID TotProt-5.6 Glucose-107 
LD(LDH)-187 Amylase-108 Albumin-3.7
___ 01:15PM OTHER BODY FLUID ADENOSINE DEAMINASE, FLUID-PND
 
Brief Hospital Course:
In summary, the patient is a ___ ___ speaking 
female who presented to her nephrologist complaining of 1 month 
of intermittent palpitation episodes and worsening shortness of 
breath with exertion. On further workup she was found to have 
a moderate to large size pericardial effusion noted on 
echocardiogram without tamponade. She was admitted for an 
elective pericardial drainage on ___. She was monitored in 
the CCU s/p procedure and recovered smoothly without any serious 
complications. 

1) Pericardial Effusion: The etiology of the effusion remains 
unclear.  The patient had CT, CXR, and pericardiocentesis with 
fluid analysis which did not reveal the etiology of the disease. 
The differential includes TB, malignancy or idiopathic. She was 
briefly transferred to the CCU post procedure where she 
experienced an episode of bradycardia and hypotension which 
resolved and did not return.  In addition, she briefly developed 
atrial tachycardia which was controlled on metoprolol. The 
patient was comfortable without signs or symptoms of effusion or 
tamponade on discharge.  Her ___, dsdna and fluid cultures were 
pending on discharge.  A CT showed continued effusion confirmed 
as stable on follow up echocardiogram. She will continue 
amlodipine and metoprolol and have a follow up echocardiogram in 
1 week, followed by an appointment with Dr. ___ in 2 weeks.

2. Renal Transplant: The patient is status post renal transplant 
for IgA Nephropathy in ___.  She was continued on Mycophenolate 
Mofetil and Sirolimus while admitted, with Sirolimus levels 
followed.  She was also continued on Vitamin D & calcium.  Her 
creatinine remained at baseline while admitted. 
 
3. Hypertension: The patient was continued on her home dose of 
Amlodipine 5mg and Toprol 100mg.
 
4. Bipolar disorder: The patient was continued on her home dose 
Benztropine & Risperidal. 
 
Medications on Admission:
Mycophenolate Mofetil 500mg PO BID  
Sirolimus 2mg PO Qday  
Amlodipine 5mg PO Qday  
Metoprolol Succinate 100mg PO Daily  
Calcium/Vitamin D 500  
Risperdal 3mg PO Qday  
Benztropine 1mg PO Qday  
Trimethroprim-Sulfamethoxazole 400/80 PO Qday
 
Discharge Medications:
1. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
2. Sirolimus 1 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Risperidone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
5. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Benztropine 1 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
7. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
8. CALCIUM 500+D 500 (1,250)-200 mg-unit Tablet Sig: One (1) 
Tablet PO once a day.  
9. Outpatient Lab Work
Please have a CH50 drawn with results sent to Dr. ___, 
___
10. Outpatient Lab Work
Please schedule an outpatient echocardiogram in 1 week, 
instructions attached.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagosis:
1) Pericardial effusion

Secondary Diagnoses:
1) Renal Transplant
2) Hypertension
3) Bipolar Disorder

 
Discharge Condition:
Vital signs stable on room air, no discomfort.

 
Discharge Instructions:
You have been admitted to the hospital because of a fluid 
collection that was found around your heart.  While you were 
here we extracted the fluid and found that it was a mix of blood 
and fluid.  We are still unsure why you have an effusion but we 
think you are safe to go home.  

Please take all of your medicines as described. 

Please schedule an echocardiogram in 1 week and make all doctors 
___.

If you should feel short of breath or have chest pain (or any 
other concerning medical symptom), please call your doctor or 
911 to return to the emergency room.
 
Followup Instructions:
___